US05055477
To a 5 ml solution of ethyl 1,3-dimethyl-4-hydroxypyrazole-5-carboxylate (2 g, 11.6 mmol) in anhydrous dimethylformamide (hereinafter, referred to as DMF) was added sodium hydride (60 % dispersion in oil) (0.47 g, 11.8 mmol) under ice-cooling. Benzyl bromide (2 g, 11.7 mmol) was then added dropwise thereto, and the resulting mixture was stirred at room temperature for one hour and poured into water. The mixture was extracted with ethyl acetate. The extract was washed with water, and saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed over silica gel (eluent; ethyl acetate/n-hexane=1:4) to give ethyl 4-benzyloxy -1,3-dimethylpyrazol-5-carboxylate (2.5 g, 9.1 mmol, 78 %).

reactant | ethyl 1,3-dimethyl-4-hydroxypyrazole-5-carboxylate | 11.6 mmol, 2 g | CN1N=C(C(=C1C(=O)OCC)O)C | C8H12N2O3
reactant | sodium hydride | 11.8 mmol, 0.47 g | [H-].[Na+]
reactant | Benzyl bromide | 11.7 mmol, 2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 4-benzyloxy -1,3-dimethylpyrazol-5-carboxylate | 9.1 mmol, 2.5 g, 78 % | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OCC)C)C | C15H18N2O3
